US04931457
N-(1-Naphthyl)-4-nitro-3-pyridinamine-N-oxide
To 1-naphthylamine (5.43 g) in 100 ml of absolute ethanol was added 3-fluoro-4-nitropyridine-N-oxide (6.0 g) in 25 ml of ethanol and this mixture was heated to 70° C. and stirred for six hours. The mixture was filtered to yield a solid (6.6 g) which was recrystallized from ethanol to yield a solid (2.6 g), m.p. 200°-201° C. (decomp.).

reactant | 1-naphthylamine | 5.43 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | 3-fluoro-4-nitropyridine-N-oxide | 6.0 g | FC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C5H3FN2O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | N-(1-Naphthyl)-4-nitro-3-pyridinamine-N-oxide | 6.6 g | C1(=CC=CC2=CC=CC=C12)[NH+](C=1C=NC=CC1[N+](=O)[O-])[O-] | C15H11N3O3
